US09079866B2
5-[3-Fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]-1H-pyrrolo[2,3-b]pyridine
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine and 2-(2-bromophenoxy)pyrimidine. MS (ESI): mass calcd. for C23H15FN4O, 382.12; m/z found, 383.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 9.24 (s, 1H), 8.51-8.42 (m, 3H), 8.14-8.05 (m, 1H), 7.57-7.28 (m, 8H), 6.99-6.89 (m, 1H), 6.55 (dd, J=3.6, 1.8, 1H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=C2C(=NC1)NC=C2 | C19H20BFN2O2
reactant | 2-(2-bromophenoxy)pyrimidine | BrC1=C(OC2=NC=CC=N2)C=CC=C1 | C10H7BrN2O
product | 5-[3-Fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]-1H-pyrrolo[2,3-b]pyridine | FC=1C=C(C=CC1C=1C=C2C(=NC1)NC=C2)C2=C(C=CC=C2)OC2=NC=CC=N2 | C23H15FN4O
